US08865725B2
Activated Raney nickel (a portion of spatula) was added to a suspension of 6-(4-fluoro-phenyl)-2-m-tolyloxymethyl-6H-imidazo[1,2-c]pyrimidin-5-one (70 mg, 0.2 mmol) in MeOH (20 mL). The mixture was hydrogenated at RT under H2 atmosphere for 3 days. The mixture was filtered through a pad of diatomaceous earth and the solvents were evaporated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in DCM with a gradient of 50/50 to 75/25). The desired fractions were collected and the solvents evaporated in vacuo to yield 6-(4-fluoro-phenyl)-2-m-tolyloxymethyl-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one (34 mg, 48% yield). 1H NMR (500 MHz, CDCl3) δ ppm 2.33 (s, 3H), 3.29 (t, J=6.6 Hz, 2H), 4.00 (t, J=6.6 Hz, 2H), 5.01 (s, 2H), 6.76-6.88 (m, 3H), 7.09-7.21 (m, 3H), 7.28-7.36 (m, 2H), 7.56 (s, 1H).

reactant | 6-(4-fluoro-phenyl)-2-m-tolyloxymethyl-6H-imidazo[1,2-c]pyrimidin-5-one | 0.2 mmol, 70 mg | FC1=CC=C(C=C1)N1C(N2C(C=C1)=NC(=C2)COC=2C=C(C=CC2)C)=O | C20H16FN3O2
catalyst | Raney nickel | [Ni] | Ni
solvent | MeOH | 20 mL | CO | CH4O
product | 6-(4-fluoro-phenyl)-2-m-tolyloxymethyl-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one | 34 mg, 48% yield | FC1=CC=C(C=C1)N1C(N2C(CC1)=NC(=C2)COC=2C=C(C=CC2)C)=O | C20H18FN3O2
